US06281363B1
In a manner analagous to that described in Example 1, parts (vi)-(viii), but using 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-2′-glycinyl-4-methylvalerohydrazide and O-benzylhydroxylamine in place of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-glycinyl-4-methylvalerohydrazide and O-(tetrahydro-2H-pyran-2(RS)-yl)hydroxylamine respectively there was obtained 2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(2,5-dioxo-1-imidazolidinyl)valeramide in the form of a white solid.

reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-2′-glycinyl-4-methylvalerohydrazide | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NNC(CN)=O)CC(C)C | C23H37N3O4
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
reactant | O-(tetrahydro-2H-pyran-2(RS)-yl)hydroxylamine | O1C(CCCC1)ON | C5H11NO2
product | 2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenylbutyl]-4-methyl-N-(2,5-dioxo-1-imidazolidinyl)valeramide | C(C1=CC=CC=C1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NCC1=O)=O)CC(C)C | C27H34N4O5
